US04775757
Methyl 2,5-dimethyl-4-acetyl-3-thiophene acetate
A solution of methyl 2,5-dimethyl-3-thiophene acetate (33.2 g, 0.18 mol) in CH2Cl2 (150 ml) was added to a solution of acetylchloride (15.5 ml, 0.216 mol) and tin (IV) chloride (23.2 ml, 0.198 mol) in CH2Cl2 (200 ml) at 0°-5° C. over a 15 minute period. The solution became a deep red color and was stirred at 0°-5° C. for two hours. H2O (200 ml) was added to the mixture, and the organic layer was separated, washed with saturated aqueous NaHCO3 (1×100 ml), dried over MgSO4, and treated with activated charcoal. The solvent was removed in vacuo to give the product (40.2 g, 97% yield) as an oil with crystallized slowly on standing; mp 68°-71° C.; IR (KBr) 1745 and 1650 cm-1 ; mass spectrum m/z 226 (M+); 1H NMR (CDCl3) δ 2.30 (s, 3H, thiophene-CH3), 2.47 (s, 3H, COCH3), 2.60 (s, 3H, thiophene-CH3), 3.67 (s, 5H, CH2CO2CH3).

reactant | methyl 2,5-dimethyl-3-thiophene acetate | 0.18 mol, 33.2 g | CC=1SC(=CC1CC(=O)OC)C | C9H12O2S
reactant | acetylchloride | 0.216 mol, 15.5 ml | C(C)(=O)Cl | C2H3ClO
reactant | tin (IV) chloride | 0.198 mol, 23.2 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | H2O | 200 ml | O | H2O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2,5-dimethyl-4-acetyl-3-thiophene acetate | 40.2 g, 97% yield | CC=1SC(=C(C1CC(=O)OC)C(C)=O)C | C11H14O3S
